US09388161B2
(Diethylamino)sulfur trifluoride (DAST) (0.152 g, 0.94 mmol) was added to a −78° C. solution of (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-hydroxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.100 g, 0.19 mmol) in dichloromethane (4 mL), and the resulting solution stirred for 2 h at −78° C. The reaction mixture was poured into saturated aqueous sodium bicarbonate solution (20 mL) and extracted with dichloromethane (3×20 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via preparative thin layer chromatography (eluting with 30% ethyl acetate/petroleum ether) to afford (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-fluoro azetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.059 g, 59%) as a yellow solid. MS (ESI, pos. ion) m/z 532 [M+H]+.

reactant | (Diethylamino)sulfur trifluoride | 0.94 mmol, 0.152 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-hydroxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.19 mmol, 0.100 g | C(C)(C)(C)OC(=O)N1CC(C1)(O)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C27H35N3O6S
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-fluoro azetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.059 g, 59% | C(C)(C)(C)OC(=O)N1CC(C1)(F)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C27H34FN3O5S
